US07943607B2
9-Chloro-8-fluoro-4-methyl-3,4-dihydro-1,4-benzoxazepin-5(2H)-one
Sodium hydride (28 mg, 0.723 mmol, 60% dispersion in mineral oil) was added slowly to a solution of 3-chloro-2,4-difluoro-N-(2-hydroxyethyl)-N-methylbenzamide (180 mg, 0.723 mmol) in DMF (4 mL) and the reaction stirred at room temperature for 16 hours. Water was added to the reaction and the mixture was subsequently extracted with DCM (3×30 mL). The combined organic phases were washed with water (5×25 mL) and saturated brine solution then dried (MgSO4), filtered and evaporated to give the desired product as an oil (140 mg). 1H NMR δ (CDCl3): 3.21 (s, 3H), 3.54 (t, 2H), 4.52 (t, 2H), 6.97 (dd, 1H), 7.72 (dd, 1H). m/z 230 (M+H)+

reactant | Sodium hydride | 0.723 mmol, 28 mg | [H-].[Na+]
reactant | 3-chloro-2,4-difluoro-N-(2-hydroxyethyl)-N-methylbenzamide | 0.723 mmol, 180 mg | ClC=1C(=C(C(=O)N(C)CCO)C=CC1F)F | C10H10ClF2NO2
reactant | Water | O | H2O
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 9-Chloro-8-fluoro-4-methyl-3,4-dihydro-1,4-benzoxazepin-5(2H)-one | 140 mg | ClC1=C(C=CC=2C(N(CCOC21)C)=O)F | C10H9ClFNO2
